US07776910B2
3-[2-Dimethylcarbamoyloxymethyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (83 mg, 1.638 mmol) was dissolved in 3 ml of CH2Cl2. TFA (0.5 ml) was added and the mixture was stirred for 5 hours. The solution was concentrated under reduced pressure to give dimethyl-carbamic acid 5-(3-fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-benzyl ester, MS (M+H)=407.

reactant | 3-[2-Dimethylcarbamoyloxymethyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.638 mmol, 83 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)COC(N(C)C)=O | C25H31FN2O6S
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | dimethyl-carbamic acid 5-(3-fluoro-benzenesulfonyl)-2-pyrrolidin-3-yl-benzyl ester | FC=1C=C(C=CC1)S(=O)(=O)C=1C=CC(=C(COC(N(C)C)=O)C1)C1CNCC1 | C20H23FN2O4S
